US07482448B2
((S)-1-{hydroxy-[5-(4-trifluoromethoxy-phenyl)-1,3,4-oxadiazol-2-yl]-methyl}-propyl)-carbamic acid tert-butyl ester (0.54 mmol, 0.225 g) is dissolved in dichloromethane (9 mL) and treated with trifluoroacetic acid (1 mL). The reaction mixture is stirred for four hours. The solvents are evaporated under reduced pressure. The residue is re-dissolved in dichloromethane (20 mL) and Silicycle Triamine (5.4 mmol, 1.47 g) is added. The reaction mixture is stirred for 60 h (over the weekend). The reaction mixtures are filtered under suction and the solvents evaporated to give (S)-2-Amino-1-[5-(4-trifluoromethoxy-phenyl)-1,3,4-oxadiazol-2-yl]-butan-1-ol (0.164 g, 96%). MS: m/z=318 (M+H+)

reactant | ((S)-1-{hydroxy-[5-(4-trifluoromethoxy-phenyl)-1,3,4-oxadiazol-2-yl]-methyl}-propyl)-carbamic acid tert-butyl ester | 0.54 mmol, 0.225 g | C(C)(C)(C)OC(N[C@@H](CC)C(C=1OC(=NN1)C1=CC=C(C=C1)OC(F)(F)F)O)=O | C18H22F3N3O5
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
product | (S)-2-Amino-1-[5-(4-trifluoromethoxy-phenyl)-1,3,4-oxadiazol-2-yl]-butan-1-ol | 0.164 g, 96% | NC([C@H](O)C=1OC(=NN1)C1=CC=C(C=C1)OC(F)(F)F)CC | C13H14F3N3O3
